US09315521B2
Ethyl 2-bromo-4-chloropyridine-3-carboxylate (2.0 g, 7.6 mmol) was dissolved in anhydrous dioxane (55 mL). A solution of diethyl zinc (6.9 mL, 7.6 mmol, 1.1 M in toluene) was added dropwise, and then was added (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium (83 mg, 113 μmol). The mixture was heated at 70° C. for 6 hours, and water followed by 1 N HCl was added. The mixture was extracted 3 times with ethyl acetate, and the combined organic phases were washed with brine and dried over sodium sulfate. After evaporation, the residue was dissolved in DCM and purified on silica gel using 0-20% hexane/ethyl acetate to afford ethyl 2,4-diethylpyridine-3-carboxylate (720 mg, 46% yield).

reactant | Ethyl 2-bromo-4-chloropyridine-3-carboxylate | 7.6 mmol, 2.0 g | BrC1=NC=CC(=C1C(=O)OCC)Cl | C8H7BrClNO2
reactant | diethyl zinc | 7.6 mmol, 1.1 M, 6.9 mL | C(C)[Zn]CC
reactant | water | O | H2O
reactant | HCl | 1 N | Cl | ClH
reactant | dioxane | 55 mL | O1CCOCC1 | C4H8O2
product | ethyl 2,4-diethylpyridine-3-carboxylate | 720 mg, 46% yield | C(C)C1=NC=CC(=C1C(=O)OCC)CC | C12H17NO2
